US07932272B2
2-(Cyclopropylmethyl-amino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a solution of 2-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Preparation Example A+-7 (64 mg, 0.186 mmol) in dimethylsulfoxide (1 mL) was added (aminomethyl)cyclopropane (48 μl, 0.56 mmol), and the solution was stirred for 14 hours at 120° C. The reaction mixture was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and the title compound (15.6 mg, 0.0316 mmol, 17%) was obtained as a trifluoroacetic acid salt.

reactant | 2-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | ClC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C17H13ClN2O2S
reactant | (aminomethyl)cyclopropane | 0.56 mmol, 48 μl | NCC1CC1 | C4H9N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 2-(Cyclopropylmethyl-amino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.0316 mmol, 15.6 mg, 17% | C1(CC1)CNC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C21H21N3O2S
